US04593102
4-(Phenylthio)homopiperidine
Following an analogous procedure to that of Sasatani, S. et al. described in Tetrahedron Letters, Vol. 24 (No. 43), pp 4711-4712 (1982), 4-phenylthiocyclohexanone oxime is reacted with diisobutyl aluminum hydride in methylene chloride to give the title compound.

reactant | 4-phenylthiocyclohexanone oxime | C1(=CC=CC=C1)SC1CCC(CC1)=NO | C12H15NOS
reactant | diisobutyl aluminum hydride | [H-].C(C(C)C)[Al+]CC(C)C
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
product | 4-(Phenylthio)homopiperidine | C1(=CC=CC=C1)SC1CCNCCC1 | C12H17NS
